US05086055
5-[2-[4-(2-Fluorophenyl)-1-piperazinyl]ethyl]-3-methyl-2-oxazolidinone
This compound was prepared according to the procedure of Example 2. A mixture of 3.6 g (0.02 mol) of 1-(2-fluorophenyl)piperazine (Emka-Chemie), 3.3 g (0.02 mol) of 5-(2-chloroethyl)-3-methyl-2-oxazolidinone, 6.4 g (0.06 mol) of anhydrous sodium carbonate and 0.3 g of potassium iodide in 100 mL of 1-butanol gave 3.7 g (61%) of white solid, mp 80°-82° C.

reactant | 1-(2-fluorophenyl)piperazine | 0.02 mol, 3.6 g | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | 5-(2-chloroethyl)-3-methyl-2-oxazolidinone | 0.02 mol, 3.3 g | ClCCC1CN(C(O1)=O)C | C6H10ClNO2
reactant | sodium carbonate | 0.06 mol, 6.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
solvent | 1-butanol | 100 mL | C(CCC)O | C4H10O
product | 5-[2-[4-(2-Fluorophenyl)-1-piperazinyl]ethyl]-3-methyl-2-oxazolidinone | 3.7 g, 61% | FC1=C(C=CC=C1)N1CCN(CC1)CCC1CN(C(O1)=O)C | C16H22FN3O2
